US08608986B2
1-bromo-4-tert-butylbenzene (125 g, 587 mmol) and tetrahydrofuran (470 mL) were charged into a reaction vessel in an argon stream and cooled to −70° C. A n-butyllithium/hexane solution (1.6 M, 367 mL, 587 mmol) was added dropwise thereto at −70° C. over 90 minutes. After the completion of dropwise addition, the mixture was stirred at −70° C. for 2 hours to obtain a 4-tert-butylphenyllithium/THF solution. Cyanuric chloride (50.8 g, 276 mmol) and tetrahydrofuran (463 mL) were charged into another reaction vessel in an argon stream and cooled to −70° C. The 4-tert-butylphenyllithium/THF solution thus prepared was gradually added dropwise thereto, while cooled to keep the reaction temperature to −60° C. or lower. After the completion of dropwise addition, the reaction solution was stirred at −40° C. for 4 hours and at room temperature for 4 hours. The mixture was quenched by addition of water (50 mL), and tetrahydrofuran was evaporated. From this residue, the organic layer was extracted by the addition of water (1 L) and chloroform (2 L) and the organic layer was washed with water (1 L), and evaporated to dryness. This residue was dissolved in acetonitrile (600 mL), and insoluble solid was filtered off hot. The obtained filtrate was concentrated to approximately 100 mL and cooled to −70° C., and the deposited solid was collected by filtration. The collected solid was dissolved in a chloroform (200 mL)/hexane (600 mL) mixed solvent and purified by silica gel column chromatography (eluent: chloroform/hexane). The eluate was evaporated to dryness, and this residue was recrystallized from acetonitrile to obtain 2,4-di(4′-tert-butylphenyl)-6-chloro-1,3,5-triazine (41.3 g, 109 mmol).

reactant | Cyanuric chloride | 276 mmol, 50.8 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | 4-tert-butylphenyllithium THF | C(C)(C)(C)C1=CC=C(C=C1)[Li].C1CCOC1
solvent | tetrahydrofuran | 463 mL | O1CCCC1 | C4H8O
product | 2,4-di(4′-tert-butylphenyl)-6-chloro-1,3,5-triazine | 109 mmol, 41.3 g | C(C)(C)(C)C1=CC=C(C=C1)C1=NC(=NC(=N1)C1=CC=C(C=C1)C(C)(C)C)Cl | C23H26ClN3
